US08975254B2
f) 3-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)isoxazol-5-yl)ethyl)-1H-pyrazole-5-carboxamide
3-Acetyl-1H-pyrazole-5-carboxylic acid (31 mg; 0.203 mmol) and DIPEA (0.106 ml) were dissolved in 5 ml of dry DCM. HOBt hydrate (47 mg; 0.304 mmol) and EDCI (58 mg; 0.304 mmol) were added at RT. 4-(5-(2-aminoethyl) isoxazol-3-yl)-2-chloro-3-methylbenzonitrile (53 mg; 0.203 mmol) was added and the reaction was stirred at RT for 4 h. DCM 10 ml of was added and organic layer washed with 1M HCl, saturated NaHCO3 and brine. The organic phase was dried over Na2SO4, filtered and evaporated to dryness. The crude product was triturated with n-heptane to give the title product 32 mg. 1H-NMR (400 MHz; d6-DMSO): δ 2.44 (s, 3H), 2.51 (s, 3H), 3.12 (t, 2H), 3.63 (m, 2H), 6.75 (s, 1H), 7.30 (bs, 1H), 7.62 (d, 1H), 7.94 (d, 1H), 8.73 (bs, 1H), 14.20 (s, 1H).

reactant | 3-Acetyl-1H-pyrazole-5-carboxylic acid | 0.203 mmol, 31 mg | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
reactant | DIPEA | 0.106 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt hydrate | 0.304 mmol, 47 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDCI | 0.304 mmol, 58 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 4-(5-(2-aminoethyl) isoxazol-3-yl)-2-chloro-3-methylbenzonitrile | 0.203 mmol, 53 mg | NCCC1=CC(=NO1)C1=C(C(=C(C#N)C=C1)Cl)C | C13H12ClN3O
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 3-acetyl-N-(2-(3-(3-chloro-4-cyano-2-methylphenyl)isoxazol-5-yl)ethyl)-1H-pyrazole-5-carboxamide | 32 mg | C(C)(=O)C1=NNC(=C1)C(=O)NCCC1=CC(=NO1)C1=C(C(=C(C=C1)C#N)Cl)C | C19H16ClN5O3
